US05306692
1-Acetyl-6-(2-chloro-6-fluoro-4-trifluoromethylphenoxy) indazole (2.05 g) was stirred and heated under reflux with methanol (10 cm3) and concentrated hydrochloric acid (6 cm3) for 2 hours and then left to stand at room temperature for 48 hours. The solvent was removed under vacuum and the residue partitioned between ethyl acetate and saturated sodium bicarbonate. The organic phase was washed with water, dried (MgSO4), filtered and the solvent removed from the filtrate under vacuum. The residue, a brown oil, was purified by flash chromatography (CHCl3 :ethyl acetate-85:15) to yield 6-(2-chloro-6-fluoro-4-trifluoromethylphenoxy)indazole (1.32 g) as a straw colored oil which solidified on standing. m.p.=133.9°-143.1° C. M+ =330.

reactant | 1-Acetyl-6-(2-chloro-6-fluoro-4-trifluoromethylphenoxy) indazole | 2.05 g | C(C)(=O)N1N=CC2=CC=C(C=C12)OC1=C(C=C(C=C1F)C(F)(F)F)Cl | C16H9ClF4N2O2
reactant | hydrochloric acid | 6 cm3 | Cl | ClH
solvent | methanol | 10 cm3 | CO | CH4O
product | 6-(2-chloro-6-fluoro-4-trifluoromethylphenoxy)indazole | 1.32 g | ClC1=C(OC2=CC=C3C=NNC3=C2)C(=CC(=C1)C(F)(F)F)F | C14H7ClF4N2O
